US05928558
N-(1-Oxyl-2,2,6,6-tetramethylpiperidin-4-yl)octanamide
To a stirred 0° C. solution of 1.0 g of 1-oxyl-4-amino-2,2,6,6-tetramethylpiperidine and 0.65 g of triethylamine in 10 mL of methylene chloride is added dropwise a solution of 0.95 g of octanoyl chloride in 5 mL of methylene chloride. After the addition is complete, the reaction mixture is allowed to warm to ambient temperature. After two more hours, the reaction mixture is washed with 1% aqueous sodium hydroxide and finally water. The organic phase is dried over anhydrous magnesium sulfate, filtered and concentrated. The title compound is isolated as a red oil after column chromatography.

reactant | 1-oxyl-4-amino-2,2,6,6-tetramethylpiperidine | 1.0 g | ON1C(CC(CC1(C)C)N)(C)C | C9H20N2O
reactant | triethylamine | 0.65 g | C(C)N(CC)CC | C6H15N
reactant | octanoyl chloride | 0.95 g | C(CCCCCCC)(=O)Cl | C8H15ClO
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(1-Oxyl-2,2,6,6-tetramethylpiperidin-4-yl)octanamide | ON1C(CC(CC1(C)C)NC(CCCCCCC)=O)(C)C | C17H34N2O2
